US05151428
A mixture of 0.80 g of 2-chloro-5-phenoxyphenol, 0.57 g of 2-chloro-5-(1-hydroxyethyl)pyridine, 0.95 g of triphenylphosphine, 0.63 g of diethyl azadicarboxylate and 100 ml of tetrahydrofuran is stirred at room temperature. After 48 hours, the reaction mixture is concentrated, and 50 ml of diethyl ether are added thereto. The precipitate is removed by filtration, and the filtrate is concentrated. The residue is subjected to silica gel chromatography to give 2-chloro-5-[1-(2-chloro-4-phenoxyphenoxy)ethyl]pyridine.

reactant | 2-chloro-5-phenoxyphenol | 0.80 g | ClC1=C(C=C(C=C1)OC1=CC=CC=C1)O | C12H9ClO2
reactant | 2-chloro-5-(1-hydroxyethyl)pyridine | 0.57 g | ClC1=NC=C(C=C1)C(C)O | C7H8ClNO
reactant | triphenylphosphine | 0.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-chloro-5-[1-(2-chloro-4-phenoxyphenoxy)ethyl]pyridine | ClC1=NC=C(C=C1)C(C)OC1=C(C=C(C=C1)OC1=CC=CC=C1)Cl | C19H15Cl2NO2
